US05789406
The preparation is carried out in the same way as in Example 20, from 1.5 g of 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one hydrochloride, 1.53 ml of triethylamine and 1.79 g of 2-nitrophenyl isocyanate. After reacting for 6 hours at a temperature in the region of 20° C., the insoluble material is filtered and washed with water and then with isopropyl ether. 0.7 g of 8-[3-(2-nitrophenyl)ureido]-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one dihydrate are thus obtained in the form of an orangey solid, the melting point of which is greater than 260° C. (Analysis C20H18 N6O6.0.83H2O, % calculated C: 54.79, H: 4.14, N: 19.17, % found C: 54.5, H: 3.8, N: 19.1).

reactant | 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one hydrochloride | 1.5 g | Cl.NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1
reactant | 2-nitrophenyl isocyanate | 1.79 g | [N+](=O)([O-])C1=C(C=CC=C1)N=C=O | C7H4N2O3
solvent | triethylamine | 1.53 ml | C(C)N(CC)CC | C6H15N
product | 8-[3-(2-nitrophenyl)ureido]-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one dihydrate | 0.7 g | O.O.[N+](=O)([O-])C1=C(C=CC=C1)NC(NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1)=O | InChI=1S/C20H14N6O4.2H2O/c27-19-18-21-7-8-25(18)16-10-11-9-12(5-6-13(11)17(16)24-19)22-20(28)23-14-3-1-2-4-15(14)26(29)30;;/h1-9H,10H2,(H,24,27)(H2,22,23,28);2*1H2
